US08614213B2
Trans-3-Chloro-N-(4-phenylaminomethyl-cyclohexyl)-benzamide
To a 7 mL vial equipped with magnetic stirrer bar is added (4-Amino-cyclohexylmethyl)-phenyl-amine (41 mg, 0.2 mmol), 3-chlorobenzoyl chloride (20 mg, 0.16 mmol) and DCM (2 mL) followed by trethylamine (42 μL, 0.3 mmol). The mixture is stirred at room temperature under nitrogen atmosphere for 3 hours. The mixture was then evaporated to dryness and purified directly by preparative HPLC, [MH+343.19].

reactant | (4-Amino-cyclohexylmethyl)-phenyl-amine | 0.2 mmol, 41 mg | NC1CCC(CC1)CNC1=CC=CC=C1 | C13H20N2
reactant | 3-chlorobenzoyl chloride | 0.16 mmol, 20 mg | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | Trans-3-Chloro-N-(4-phenylaminomethyl-cyclohexyl)-benzamide | ClC=1C=C(C(=O)N[C@@H]2CC[C@H](CC2)CNC2=CC=CC=C2)C=CC1 | C20H23ClN2O
